US04751223
N-[3-[7-Acetyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine-6-yl]propyl]-N-methylcarbamic Acid ethyl Ester
A stirred suspension of 27.64 g of powdered anhydrous sodium bicarbonate in 415 ml of benzene containing 23.0 g of 7-acetyl-N,N-dimethyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine was treated with 19.0 ml of ethyl chloroformate. After an overnight reflux under nitrogen, 6.3 ml more of ethyl chloroformate was added, and reflux continued another 2 hours. TLC still showed the presence of the starting material at this point, and a further addition of 6.3 ml of ethyl chloroformate was made. After 2 hours another 12.6 ml of ethyl chloroformate was added, reflux continued for another 1.5 hours, and the mixture cooled to room temperature. The reaction mixture was diluted with 500 ml of distilled water, stirred for a while, and poured into a separatory funnel, and the phases were separated. The aqueous phase was extracted with 250 ml of ethyl acetate. The combined organic phases were extracted with 200 ml of 2N hydrochloric acid, washed with 200 ml of water and 200 ml of saturated sodium chloride solution, and dried over anhydrous sodium sulfate. Filtration and concentration in vacuo afforded a gum weighing 24.37 g. This material was dissolved in 150 ml of dichloromethane, the resulting solution was divided into two halves, and each half was purified by flash chromatography on 500 g of silica gel, using dichloromethane and then 1% methanol/dichloromethane as solvent. The purest fractions were combined and concentrated in vacuo to a foam which partially crystallized upon standing. Trituration with hexane fully solidified this material, which was filtered, washed with hexane and dried in vacuo to afford 11.65 g of solid, m.p. 125°-128° C.

reactant | sodium bicarbonate | 27.64 g | C([O-])(O)=O.[Na+]
reactant | 7-acetyl-N,N-dimethyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-propanamine | C(C)(=O)N1C2=C(N3C4=C(C1CCCN(C)C)C=CC=C4CC3)C=CC=C2 | C22H27N3O
reactant | ethyl chloroformate | 19.0 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 6.3 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 12.6 ml | ClC(=O)OCC | C3H5ClO2
solvent | benzene | 415 ml, 23.0 g | C1=CC=CC=C1 | C6H6
solvent | water | 500 ml | O | H2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | N-[3-[7-Acetyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine-6-yl]propyl]-N-methylcarbamic Acid ethyl Ester | 11.65 g | C(C)OC(N(C)CCCC1N(C2=C(N3C4=C1C=CC=C4CC3)C=CC=C2)C(C)=O)=O | C24H29N3O3
